US07320995B2
B. N-[methyl] N-[methoxyl] 2-hydroxy-2-(4-fluorophenyl)acetamide
Cool a mixture of N-methyl-O-methyl hydroxylamine hydrochloride (118 mmol) and toluene (125 mL) to −5° C. Slowly add trimethylaluminum (2 M in heptane, 59.2 mL, 118 mmol) to the mixture over 20 minutes, maintaining the reaction temperature from −1 to 8° C. After about 5 minutes slowly warm the mixture to room temperature and stir for 1.5 hours. Add a solution of methyl p-fluoromandelate (11.1 g, 60 mmol) in 75 mL of toluene over 30 min without external cooling. Cool the reaction to 0° C. and quench with 10% hydrochloric acid. Extract with ethyl acetate (4×250 mL). Wash the combined ethyl acetate layers sequentially with water and saturated aqueous sodium chloride, dry over sodium sulfate and concentrate under reduced pressure to provide 12.1 g (82%) of the desired compound.

reactant | N-methyl-O-methyl hydroxylamine hydrochloride | 118 mmol | Cl.CNOC
reactant | trimethylaluminum | 118 mmol, 2 M, 59.2 mL | C[Al](C)C
reactant | methyl p-fluoromandelate | 60 mmol, 11.1 g | FC1=CC=C(C(C(=O)OC)O)C=C1 | C9H9FO3
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 125 mL | C1(=CC=CC=C1)C | C7H8
product | N-[methyl] N-[methoxyl] 2-hydroxy-2-(4-fluorophenyl)acetamide | 12.1 g, 82% | CN(C(C(C1=CC=C(C=C1)F)O)=O)OC | C10H12FNO3
